US06166015
Methyl 1-benzyl-5-oxo-3-pyrrolidinecarboxylate (50 g, 0.21 mol) was stirred in a solution of ammonia in methanol (7 M, 400 mL, 2.8 mol). After 2 days, the solution was concentrated with heating (50° C.) to about 300 mL at which point all solids remained dissolved. The reaction was then allowed to cool down and the resulting solid was filtered, washed with ether and dried to give 1-benzyl-5-oxo-pyrrolidine-3-carboxylic acid amide as colorless crystals (40 g).

reactant | Methyl 1-benzyl-5-oxo-3-pyrrolidinecarboxylate | 0.21 mol, 50 g | C(C1=CC=CC=C1)N1CC(CC1=O)C(=O)OC | C13H15NO3
reactant | ammonia | N | H3N
reactant | methanol | 2.8 mol, 7 M, 400 mL | CO | CH4O
product | 1-benzyl-5-oxo-pyrrolidine-3-carboxylic acid amide | 40 g | C(C1=CC=CC=C1)N1CC(CC1=O)C(=O)N | C12H14N2O2
